US06573283B2
8-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-1.2-dimethyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalene
A mixture of 0.69 g (1.8 mmole) of [(8R)-1,2-dimethyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalen-8-yl]methyl 4-methylbenzenesulfonate and 1.0 g (5.0 mmole) of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole in 10.0 mL of DMSO was heated at 90-100° C. under nitrogen for 6 hours. The reaction was allowed to come to room temperature, diluted to 500 mL with ethyl acetate, washed with 400 mL portions of saturated aqueous sodium bicarbonate, water and saturated brine, dried over sodium sulfate, filtered and evaporated in vacuum. The residue was column chromatographed on silica gel with 0-3% methanol in chloroform as eluant and the product fractions concentrated in vacuum to give 0.090 g of the desired compound as the free base. Recrystallization from ethanol with the addition of 0.025 g of fumaric acid gave the (S)-enantiomer of the title compound as a yellow solid, m.p. 186-188° C.

reactant | [(8R)-1,2-dimethyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalen-8-yl]methyl 4-methylbenzenesulfonate | 1.8 mmole, 0.69 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=CC=C3C(=C2O1)N(C(N3)C)C | C19H22N2O5S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 5.0 mmole, 1.0 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | DMSO | 10.0 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-1.2-dimethyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalene | 0.090 g | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CC1COC2=CC=C3C(=C2O1)N(C(N3)C)C | C25H28N4O2
